US05244898
In ethanol (500 ml) is dispersed 10% Pd-C (5 g), and thereto is added 5-dimethylamino-1-(4-nitrobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (64.1 g), and the mixture is subjected to catalytic reduction at ordinary room temperature under atmospheric pressure. After reduction, 10% Pd-C is removed by filtration, and the filtrate is concentrated under reduced pressure to give 5-dimethylamino-1-(4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (56.1 g) as white powder, mp. 120°-122° C.

reactant | 5-dimethylamino-1-(4-nitrobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 64.1 g | CN(C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C | C19H21N3O3
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd-C | 5 g | [Pd] | Pd
product | 5-dimethylamino-1-(4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 56.1 g | CN(C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)N)=O)C | C19H23N3O
